US07094780B1
Synthesis of 1-Benzylpiperidine-3-carboxylic acid benzyl ester
To a solution added of nipecotic acid (8.0 g, 61.9 mmol) in N,N-dimethylformamide (80 mL) is benzyl bromide (31.8 g, 186 mmol) and potassium carbonate (42.8 g, 310 mmol). The mixture is heated at 70° C. for 18 hours and diluted with ethyl acetate and water. The organic extract is washed with 1.0 M hydrochloric acid, water and brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue is purified by column chromatography (1:7 ethyl acetate/hexanes) to afford the title compound (8.6 g). 1H NMR (200 MHz, DMSO-d6): δ 7.27–7.42 (m, 10H), 5.07 (s, 2H), 3.45 (s, 2H), 2.88–2.49 (m, 3H), 2.32–1.32 (m, 6H).

reactant | nipecotic acid | 61.9 mmol, 8.0 g | N1CC(C(=O)O)CCC1 | C6H11NO2
reactant | benzyl bromide | 186 mmol, 31.8 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 310 mmol, 42.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-Benzylpiperidine-3-carboxylic acid benzyl ester | 8.6 g | C(C1=CC=CC=C1)OC(=O)C1CN(CCC1)CC1=CC=CC=C1 | C20H23NO2
